US07790724B2
b) 2-(4-Amino-3-cyclohex-1-enyl-phenyl)-ethanesulfonic acid tert-butylamide
The title compound was prepared according to the Suzuki coupling procedure of Example 44, step (b) using cyclohex-1-enyl boronic acid (117 mg, 0.931 mmol) and 2-(4-amino-3-bromo-phenyl)-ethanesulfonic acid tert-butylamide (as prepared in the previous step, 250 mg, 0.745 mmol) and purified on silica (20% EtOAc/hexanes) (228 mg, 91%). 1H-NMR (CDCl3; 400 MHz): δ 6.87 (dd, 1H, J=8.0, 2.1 Hz), 6.82 (d, 1H, J=2.1 Hz), 6.64 (d, 1H, J=8.0 Hz), 5.72 (br s, 1H), 4.12 (s, 1H), 3.82 (br s, 2H), 3.28 (m, 2H), 2.96 (m, 2H), 2.19-2.23 (m, 4H), 1.62-1.82 (m, 4H), 1.31 (s, 9H).

reactant | cyclohex-1-enyl boronic acid | 0.931 mmol, 117 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | 2-(4-amino-3-bromo-phenyl)-ethanesulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)CCC1=CC(=C(C=C1)N)Br | C12H19BrN2O2S
product | 2-(4-Amino-3-cyclohex-1-enyl-phenyl)-ethanesulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)CCC1=CC(=C(C=C1)N)C1=CCCCC1 | C18H28N2O2S
